US07595320B2
81.7 g (0.268 mol) of 3,4,5-tribromopyrazole are introduced with stirring into 1500 mL of diethyl ether at a temperature in the region of 20° C. and under an argon atmosphere. The mixture is cooled to a temperature in the region of −78° C., followed by dropwise addition of 335 mL (0.536 mol) of a 1.6 M solution of n-butyllithium in hexane over 3 hours 15 minutes. The reaction mixture is stirred for 1.5 hours at a temperature in the region of −75° C., followed by dropwise addition of 100 mL (1.34 mol) of dimethylformamide, while keeping the temperature below −70° C. The mixture is stirred for a further 2 hours at a temperature in the region of −75° C., and then for 15 hours at a temperature in the region of 20° C. The reaction medium is then cooled in an ice-water bath and 1000 mL of water are added. After separation of the phases by settling, the aqueous phase is extracted with 500 mL of diethyl ether and with three times 500 mL of ethyl acetate. The aqueous phase is then acidified with citric acid solution to pH 3 (formation of a precipitate is observed) and extracted with twice 1000 mL of diethyl ether. The organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure (2.7 kPa), and the yellow solid obtained is taken up in 300 mL of water and stirred for 2 hours at a temperature in the region of 20° C. The mixture is then filtered and the solid is washed with twice 50 mL of water, dried in a fume cupboard and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 51.3 g of 3,5-dibromo-1H-pyrazole-4-carboxaldehyde are thus obtained in the form of a yellow powder melting at 173° C.

reactant | 3,4,5-tribromopyrazole | 0.268 mol, 81.7 g | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | diethyl ether | 1500 mL | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 1.34 mol, 100 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
solvent | water | 1000 mL | O | H2O
product | 3,5-dibromo-1H-pyrazole-4-carboxaldehyde | 51.3 g | BrC1=NNC(=C1C=O)Br | C4H2Br2N2O
